US04410536
1,9-Dimethyl-2-benzyloxycarbonyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
4.5 g of 5-hydrazino-3-methylbenzothiophene-2-carboxylic acid benzyl ester hydrochloride are suspended in a mixture of HCl and glacial acetic acid; after adding 3 ml of 1-methyl-4-piperidone, the reaction mixture is boiled for 3 hours. The solvent is then evaporated off and the residue is adjusted to pH 7.5, and worked up as described under Example 11. Melting point: 174° C.

reactant | 5-hydrazino-3-methylbenzothiophene-2-carboxylic acid benzyl ester hydrochloride | 4.5 g | Cl.C(C1=CC=CC=C1)OC(=O)C=1SC2=C(C1C)C=C(C=C2)NN
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-methyl-4-piperidone | 3 ml | CN1CCC(CC1)=O | C6H11NO
solvent | HCl | Cl | ClH
product | 1,9-Dimethyl-2-benzyloxycarbonyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CC1=C(SC=2C1=C1C3=C(NC1=CC2)CCN(C3)C)C(=O)OCC3=CC=CC=C3 | C23H22N2O2S
